### ISSUE TITLE
Public priority release v1.0.0-schema

### ISSUE THREAD

**Issue by BenFrohman** [BenFrohman/HODGE-DISPROOF#1]
Public priority release tracker for HODGE-DISPROOF.

- Author: Benjamin Stanley Frohman (@BenFrohman)
- Copyright: (c) 2026 Benjamin Stanley Frohman
- License: Apache-2.0
- Clay tag: clay-statement-open (docs/CLAY_TAG.md)
- Release name: v1.0.0-schema
- Date: 23 September 2026
- Visibility: public
- Repo: https://github.com/BenFrohman/HODGE-DISPROOF

Status: legal pack and Clay tag are on main. Lean sources Hodge/Disproof.lean are specified in README; add them on main if missing.

Firewall: this is the type of a disproof term. Clay rational Hodge remains OPEN. zeroCycle is not a geometric counterexample.

**Comment by BenFrohman** [comment]
## Lean 4 schema (paste onto `main` as `Hodge/Disproof.lean` + `Hodge/Basic.lean` if those files are still missing)

Copyright (c) 2026 Benjamin Stanley Frohman (@BenFrohman). Apache-2.0.

```lean
import Mathlib.Algebra.Module.Submodule.Lattice
import Mathlib.LinearAlgebra.Span

namespace Hodge

structure Datum (Z V N : Type*)
    [AddCommGroup Z] [Module Rat Z]
    [AddCommGroup V] [Module Rat V]
    [AddCommGroup N] [Module Rat N] where
  codim : Nat
  obstruction : V →ₗ[Rat] N
  cl : Z →ₗ[Rat] V
  cl_isHodge : ∀ z, obstruction (cl z) = 0

namespace Datum
variable {Z V N : Type*}
    [AddCommGroup Z] [Module Rat Z]
    [AddCommGroup V] [Module Rat V]
    [AddCommGroup N] [Module Rat N]
def hodgeClasses (D : Datum Z V N) : Submodule Rat V :=
  LinearMap.ker D.obstruction
def algebraicClasses (D : Datum Z V N) : Submodule Rat V :=
  LinearMap.range D.cl
def HodgeConjecture (D : Datum Z V N) : Prop :=
  D.hodgeClasses ≤ D.algebraicClasses
end Datum

structure HodgeDisproof (Z V N : Type*)
    [AddCommGroup Z] [Module Rat Z]
    [AddCommGroup V] [Module Rat V]
    [AddCommGroup N] [Module Rat N] where
  D_bad     : Datum Z V N
  γ_bad     : V
  γ_isHodge : γ_bad ∈ D_bad.hodgeClasses
  no_cycle  : ∀ z : Z, D_bad.cl z = γ_bad → False

theorem HodgeDisproof.to_not {Z V N : Type*}
    [AddCommGroup Z] [Module Rat Z]
    [AddCommGroup V] [Module Rat V]
    [AddCommGroup N] [Module Rat N]
    (P : HodgeDisproof Z V N) : ¬ P.D_bad.HodgeConjecture := by
  intro h
  rcases h P.γ_isHodge with ⟨z, hz⟩
  exact P.no_cycle z hz

def zeroCycle : Datum Rat Rat Rat where
  codim := 2
  obstruction := 0
  cl := 0
  cl_isHodge := by intro _; rfl

def zeroCycleDisproof : HodgeDisproof Rat Rat Rat where
  D_bad     := zeroCycle
  γ_bad     := 1
  γ_isHodge := by
    change (1 : Rat) ∈ LinearMap.ker (0 : Rat →ₗ[Rat] Rat)
    simp
  no_cycle  := by
    intro z hz
    exact one_ne_zero (by simpa using hz)

end Hodge
```

### Pins
```
lean-toolchain = leanprover/lean4:v4.22.0
mathlib        = v4.22.0
clay-tag       = clay-statement-open
release        = v1.0.0-schema
```

### Firewall
`zeroCycle` inhabits the triple as linear algebra (`cl = 0`). It is not a variety. Clay rational Hodge on smooth complex projective varieties remains **open**.

To cut the GitHub Release object from the web UI: Releases → Draft a new release → tag `v1.0.0-schema` → title `v1.0.0-schema — public priority release` → latest, not pre-release.
